US08859553B2
3-(2-(2-Methyl-5-(5-(4-methyl-1H-imidazol-1-yl)-1H-benzo[d]imidazol-2-yl)phenyl) ethynyl)imidazo[1,2-b]pyridazine
The title compound was synthesized from 3-ethynylimidazo[1,2-b]pyridazine and 2-(3-iodo-4-methylphenyl)-6-(4-methyl-1H-imidazol-1-yl)-1H-benzo[d]imidazole (as prepared above) in a manner similar to that described for in Example 1. The title compound was obtained a pale yellow solid. Mp: 182-184° C.; 1H NMR (400 MHz, CD3OD) δ: 8.57 (2H, brs), 8.26 (1H, s), 7.98-8.05 (3H, m), 7.74 (1H, s), 7.68-7.70 (1H, d, J=8.4 Hz), 7.46-7.48 (2H, m), 7.42-7.44 (1H, d, J=8.4 Hz), 7.29-7.33 (1H, dd, J=4.4 and 9.2 Hz), 2.61 (3H, s), 2.31 (3H, s). HRMS (ESI-TOF+): m/z [M+H]+ calcd for C26H20N7: 430.1775. found: 430.1778.

reactant | 3-ethynylimidazo[1,2-b]pyridazine | C(#C)C1=CN=C2N1N=CC=C2 | C8H5N3
reactant | 2-(3-iodo-4-methylphenyl)-6-(4-methyl-1H-imidazol-1-yl)-1H-benzo[d]imidazole | IC=1C=C(C=CC1C)C1=NC2=C(N1)C=C(C=C2)N2C=NC(=C2)C | C18H15IN4
product | 3-(2-(2-Methyl-5-(5-(4-methyl-1H-imidazol-1-yl)-1H-benzo[d]imidazol-2-yl)phenyl) ethynyl)imidazo[1,2-b]pyridazine | CC1=C(C=C(C=C1)C1=NC2=C(N1)C=CC(=C2)N2C=NC(=C2)C)C#CC2=CN=C1N2N=CC=C1 | C26H19N7
